US08058269B2
The mixture of 4-Chloro-2-nitro-phenylamine (2.0 g, 11.6 mmol) (Aldrich) in TFA (30 mL) and conc. hydrochloric acid (3 mL) was cooled to −5° C., then a solution of NaNO2 in water (5 mL) was dropped into at such a rate that the temperature did not above 5° C. When the addition was complete, the mixture was stirred at 0° C. for additional 5 min, then poured into a mixture of acetic acid (40 mL), sulfurous acid (40 mL), CuCl2 (824 mg, 6.1 mmol) and CuCl (50 mg, 0.5 mmol), which was cooled to 0° C. in advance. The whole was stirred at room temperature for 40 min, diluted with water (100 mL), filtered. The filter cake was washed with water, dried in vacuo to give 1.5 g 4-Chloro-2-nitro-benzenesulfonyl chloride. MS: [M+H]+=256

reactant | 4-Chloro-2-nitro-phenylamine | 11.6 mmol, 2.0 g | ClC1=CC(=C(C=C1)N)[N+](=O)[O-] | C6H5ClN2O2
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
reactant | sulfurous acid | 40 mL | S(O)(O)=O | H2O3S
reactant | hydrochloric acid | 3 mL | Cl | ClH
solvent | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | 5 mL | O | H2O
solvent | water | 100 mL | O | H2O
catalyst | CuCl | 0.5 mmol, 50 mg | Cl[Cu]
product | 4-Chloro-2-nitro-benzenesulfonyl chloride | 1.5 g | ClC1=CC(=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
